US04929637
Step B: Preparation of 2-Bromo-3-[l-(methoxyethoxymethoxy)ethyl]thiophene
A solution of 2-bromo-3-(l-hydroxyethyl)thiophene (97.5 g, 0.47 mol) in dry methylene chloride (400 ml) was cooled in ice and N,N-diisopropylethylamine (68.2 g, 0.517 mol) was added followed by methoxyethoxymethYl chloride (64.4 g, 0.517 mol). The solution was stirred at room temperature over night. The dark solution was washed with water, 3N HCl, saturated NaHCO3 and finally with water. The solution was dried over anhydrous Na2SO4 filtered and concentrated in vacuo at room temperature. A dark amber oil was obtained (123.1 g). The impure product was distilled and the product was collected at 108-116° C. at 0.7 mm Hg. to give 91.1 g (66%) of colorless liquid. NMR supported the structure.

reactant | 2-bromo-3-(l-hydroxyethyl)thiophene | 0.47 mol, 97.5 g | BrC=1SC=CC1C(C)O | C6H7BrOS
reactant | N,N-diisopropylethylamine | 0.517 mol, 68.2 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methoxyethoxymethYl chloride | 0.517 mol, 64.4 g | COCCOCCl | C4H9ClO2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-3-[l-(methoxyethoxymethoxy)ethyl]thiophene | 91.1 g, 66% | BrC=1SC=CC1C(C)OCOCCOC | C10H15BrO3S
